Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Back pain and difficulty ambulating
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ y/o M with h/o CAD, atrial flutter, asthma, CHF and ESRD on  
HD who presented with 4 days of gradual onset back pain 
radiating to the back with difficulty walking.  Patient denies 
any recent history of trauma or heavy lifting.  He states he has 
never had that pain before.  He states at baseline he ambulates 
without a cane.  He lives independently, his daughter lives in 
___.  He denies any radiation down the legs, no associated 
muscle weakness or tingling or numbness.  Pain is exacerbated by 
movement.  No urinary retention, no fecal incontinence.  Patient 
denies any history of herniated discs.  His building manager 
called the EMS that brought him to the hospital after he had 
difficulty ambulating around the soda machine due to pain in his 
back.  
.
In ED patient VS were 97.3  666  149/72  14 98% RA.  He was 
given morphine IV for pain.  They performed L spine Xray that 
was negative for acute Fx.  Patient was admited due to gait 
imbalance.
 
Past Medical History:
1. ESRD on HD 
2. CAD - EKG with q waves inferior leads  
3. CHF unknown EF  
4. H/o Atrial flutter  
6. HTN  
7. COPD - PFT??  
8. Benign protatic hypertropy
9. Large scrotal/R inguinal hernia  

 
Social History:
___
Family History:
Father died stroke at age ___.  
Brother died stroke at same age.  

 
Physical Exam:
VS:  97.8 144/81  60 20  95%RA
GEN: pleasant, comfortable, NAD  
HEENT: PEERLA, no JVP, no LAD  
RESP: CTAB/L, no w/r/r 
CV: regular heart sounds, S1 and S2 wnl, II/VI holosystolic 
at the  apex.  
ABD: nd, +b/s, soft, nt, no masses or hepatosplenomegaly  
EXT: no edema, no clubbing  
SKIN: no rashes/no jaundice/no splinters  
Rectal: Guiac negative in the ed, no saddle anesthesia, patient 
with b/l scrotal enlargement that is unchanged due to R sided 
inguinal hernia
Neuro: ___ upper/lower extremities, distal/proximal, however 
patient with guarding of straight leg due to worsening of the 
pain in the R lower back, + 1 DTRs b/l, intact sensation b/l

 
Pertinent Results:
   RADIOLOGY  Final Report

L-SPINE (AP & LAT)  ___ 2:37 ___

L-SPINE (AP & LAT)

Reason: r/o fx 

UNDERLYING MEDICAL CONDITION:
___ year old man with severe mid low back pain 
REASON FOR THIS EXAMINATION:
r/o fx 
HISTORY: ___ male with severe mid low back pain. Please 
evaluate for fracture.

COMPARISON: There is none available.

TWO VIEWS OF THE LUMBAR SPINE: There is mild diffuse osteopenia, 
and moderate degenerative change, with a chronic-appearing 
scalloping of the L1 vertebral body. However, there is no 
evidence of acute compression fracture. There is also moderate 
degenerative change of the hips, incompletely imaged. Note is 
made of extensive calcifications of the abdominal aorta and 
common iliac arteries.

IMPRESSION: No evidence of acute fracture.
 
Brief Hospital Course:
Back pain - appears to be musculoskeletal in nature, no red 
flags such as fecal incontinence, urinary retention, 
neurological exam findings. Xray negative for fracture.  Treated 
with hot packs and prn percocet.  ___ eval: independent 
ambulation.  Noted to have antalgic gait.  Discharged home with 
home services including rn, sw, ___.
.
ESRD - continued HD
.
CAD/HTN - continued BB, ASA
.
h/o atrial flutter - in NSR.
 
Medications on Admission:
Toprol XL 50 mg Daily
ASA 81 mg PO Daily
Omeprazole 20 mg PO Daily
Phoslo 667 mg PO TID
Docusate
Renagel 1 tab daily
 
Discharge Medications:
1. Metoprolol Succinate 50 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
2. Aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
3. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
4. Calcium Acetate 667 mg Capsule Sig: One (1) Capsule PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  
5. Sevelamer HCl 800 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
6. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
7. Percocet ___ mg Tablet Sig: ___ Tablets PO every six (6) 
hours as needed for pain.
Disp:*20 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Lumbago (mechanical lower back pain attributed to degenerative 
disease/arthritis of the lumbar spine).
ESRD on HD
CAD

 
Discharge Condition:
Stable, independently ambulatory, Afebrile, VSS.

 
Discharge Instructions:
You were admitted for back pain and difficulty walking due to 
pain.  No neurologic deficits were noted on examination.  Your 
XRays of the back did not show a fracture, you have moderate 
arthritis of the lumbar spine which is felt to be the source of 
you back pain.

No changes were made to your home medications, we have only 
added percocet as needed for pain, as well as recommending the 
use of hot packs as needed to the area of pain. 

Return to the ___ Emergency Department if you develop: 
numbness or weakness of the legs, or severe, intractable pain 
that limits you from walking. 
 
Followup Instructions:
___